US07495005B2
3-methyl-7-(3-methyl-2-buten-1-yl)-8-chloroxanthine
5.87 mL of 1-bromo-3-methyl-2-butene is added to 10.56 g of 3-methyl-8-chloroxanthine and 17 mL of Hünig base in 100 mL of N,N-dimethylformamide. The reaction mixture is stirred for approximately 10 minutes at ambient temperature and then combined with 800 mL of water. The light-colored precipitate formed is suction filtered, washed with ethanol and diethyl ether and dried. Yield: 10.56 g (81% of theory); mass spectrum (ESI+): m/z=269, 271 [M+H]+.

reactant | 1-bromo-3-methyl-2-butene | 5.87 mL | BrCC=C(C)C | C5H9Br
reactant | 3-methyl-8-chloroxanthine | 10.56 g | CN1C(NC(C=2NC(=NC12)Cl)=O)=O | C6H5ClN4O2
reactant | Hünig base | 17 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | water | 800 mL | O | H2O
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 3-methyl-7-(3-methyl-2-buten-1-yl)-8-chloroxanthine | CN1C(NC(C=2N(C(=NC12)Cl)CC=C(C)C)=O)=O | C11H13ClN4O2
